US08957064B2
3-ethyl-5-(4-{3-[5-(6-methyl-pyridin-2-yl)-1H-[1,2,4]triazol-3-yl]-azetidin-1-ylmethyl}-phenyl)-6-phenyl-pyrazolo[1,5-a]pyrimidine
A mixture of 142 mg (0.43 mmol) 4-(3-ethyl-6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde and 314 mg (0.65 mmol, ca 60% pure) 2-(5-azetidin-3-yl-2H-[1,2,4]triazol-3-yl)-6-methyl-pyridine hydrochloride salt in 3.65 mL NMP was treated with 0.146 mL triethylamine and 0.045 mL acetic acid and stirred overnight at rt. The mixture was treated with 101 mg sodium triacetoxyborohydride and stirred overnight at rt. The reaction was partitioned between DCM and saturated sodium hydrogencarbonate solution, the organic phase dried and concentrated in vacuo and the residue purified by preparative reverse phase HPLC to give 49 mg of the title compound contaminated with formic acid.

reactant | 4-(3-ethyl-6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | 0.43 mmol, 142 mg | C(C)C=1C=NN2C1N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C21H17N3O
reactant | 2-(5-azetidin-3-yl-2H-[1,2,4]triazol-3-yl)-6-methyl-pyridine hydrochloride salt | 0.65 mmol, 314 mg | Cl.N1CC(C1)C=1N=C(NN1)C1=NC(=CC=C1)C
reactant | triethylamine | 0.146 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 101 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NMP | 3.65 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.045 mL | C(C)(=O)O | C2H4O2
product | 3-ethyl-5-(4-{3-[5-(6-methyl-pyridin-2-yl)-1H-[1,2,4]triazol-3-yl]-azetidin-1-ylmethyl}-phenyl)-6-phenyl-pyrazolo[1,5-a]pyrimidine | 49 mg | C(C)C=1C=NN2C1N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H30N8
